US08859561B2
A solution of 7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine (70 mg, 0.328 mmol) and powdered KOH (128.5 mg, 2.296 mmol) in NMP (2 mL) was stirred at RT for 10 min. 2-(Trifluoromethyl)-5-vinylpyridine (113.5 mg, 0.656 mmol) was added into the reaction mixture and stiffing continued for 24 h at RT. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel flash chromatography to yield 11-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine;

reactant | 7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | 0.328 mmol, 70 mg | N1=CC=CC2=C1NC1=C2CN2CCCC2C1 | C13H15N3
reactant | KOH | 2.296 mmol, 128.5 mg | [OH-].[K+]
reactant | 2-(Trifluoromethyl)-5-vinylpyridine | 0.656 mmol, 113.5 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 11-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-7,8,9,9a,10,11-hexahydro-5H-pyrido[3′,2′:4,5]pyrrolo[3,2-f]indolizine | FC(C1=CC=C(C=N1)CCN1C2=C(C=3CN4CCCC4CC31)C=CC=N2)(F)F | C21H21F3N4
